* C:\Farris Files\School\Side Projects\Electric Scooter\custom-escooter\ContRol Interface Board\LED Driver Circuit.asc
XU1 N035 N031 N029 0 N032 level2 Avol=1Meg GBW=5.5Meg Slew=2Meg Ilimit=50m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N036 N031 1k
C1 N032 N031 10n
R2 N033 N032 100
V1 N034 0 PULSE(0 3.3 0 20n 20n 500u 1m 20000)
V2 N029 0 3.3
R3 N035 0 10k
R4 N036 0 1.5
M1 LED- N033 N036 N036 AO4614B_N
D1 N011 N020 L128-xxyyCA3500001
D7 N002 N011 L128-xxyyCA3500001
D10 N001 N002 L128-xxyyCA3500001
V3 N001 0 12
R5 N035 N034 100k
D2 N012 N021 L128-xxyyCA3500001
D3 N003 N012 L128-xxyyCA3500001
D4 N001 N003 L128-xxyyCA3500001
D5 N013 N022 L128-xxyyCA3500001
D6 N004 N013 L128-xxyyCA3500001
D8 N001 N004 L128-xxyyCA3500001
D9 N014 N023 L128-xxyyCA3500001
D11 N005 N014 L128-xxyyCA3500001
D12 N001 N005 L128-xxyyCA3500001
D13 N015 N024 L128-xxyyCA3500001
D14 N006 N015 L128-xxyyCA3500001
D15 N001 N006 L128-xxyyCA3500001
D16 N016 N025 L128-xxyyCA3500001
D17 N007 N016 L128-xxyyCA3500001
D18 N001 N007 L128-xxyyCA3500001
D25 N025 LED- L128-xxyyCA3500001
D26 N024 LED- L128-xxyyCA3500001
D27 N023 LED- L128-xxyyCA3500001
D28 N022 LED- L128-xxyyCA3500001
D29 N021 LED- L128-xxyyCA3500001
D30 N020 LED- L128-xxyyCA3500001
XU2 N041 N037 N030 0 N038 level2 Avol=1Meg GBW=5.5Meg Slew=2Meg Ilimit=50m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N042 N037 1k
C2 N038 N037 10n
R7 N039 N038 100
V4 N040 0 PULSE(0 3.3 0 20n 20n 330u 1m 20000)
V5 N030 0 3.3
R8 N041 0 10k
R9 N042 0 1.5
M2 RLED- N039 N042 N042 AO4614B_N
R10 N041 N040 100k
D19 N001 N008 LED_RED
D20 N008 N017 LED_RED
D21 N017 N026 LED_RED
D22 N026 RLED- LED_RED
D23 N001 N009 LED_RED
D24 N009 N018 LED_RED
D31 N018 N027 LED_RED
D32 N027 RLED- LED_RED
D33 N001 N010 LED_RED
D34 N010 N019 LED_RED
D35 N019 N028 LED_RED
D36 N028 RLED- LED_RED
.model D D
.lib C:\Users\farri\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\farri\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.1
.model LED_RED D(IS=2e-19 N=2.1 RS=10 EG=1.9 TT=1e-7)
.lib UniversalOpAmp2.lib
.backanno
.end
