* C:\Farris Files\School\Side Projects\Electric Scooter\custom-escooter\ContRol Interface Board\LED Driver Circuit.asc
XU1 N042 N038 N036 0 N039 level2 Avol=1Meg GBW=5.5Meg Slew=2Meg Ilimit=50m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N043 N038 1k
C1 N039 N038 10n
R2 N040 N039 100
V1 N041 0 PULSE(0 3.3 0 20n 20n 500u 1m 20000)
V2 N036 0 3.3
R3 N042 0 10k
R4 N043 0 1.5
M1 LED- N040 N043 N043 AO4614B_N
V3 N001 0 12
R5 N042 N041 100k
XU2 N048 N044 N037 0 N045 level2 Avol=1Meg GBW=5.5Meg Slew=2Meg Ilimit=50m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 N049 N044 1k
C2 N045 N044 10n
R7 N046 N045 100
V4 N047 0 PULSE(0 3.3 0 20n 20n 330u 1m 20000)
V5 N037 0 3.3
R8 N048 0 10k
R9 N049 0 1.5
M2 RLED- N046 N049 N049 AO4614B_N
R10 N048 N047 100k
D19 N001 N010 LED_RED
D20 N010 N024 LED_RED
D21 N024 N030 LED_RED
D22 N030 RLED- LED_RED
D23 N001 N011 LED_RED
D24 N011 N025 LED_RED
D31 N025 N031 LED_RED
D32 N031 RLED- LED_RED
D33 N001 N012 LED_RED
D34 N012 N026 LED_RED
D35 N026 N032 LED_RED
D36 N032 RLED- LED_RED
D1 N001 N013 LED_RED
D2 N013 N027 LED_RED
D3 N027 N033 LED_RED
D4 N033 RLED- LED_RED
D5 N001 N014 LED_RED
D6 N014 N028 LED_RED
D7 N028 N034 LED_RED
D8 N034 RLED- LED_RED
D9 N001 N023 LED_RED
D10 N023 N029 LED_RED
D11 N029 N035 LED_RED
D12 N035 RLED- LED_RED
D13 N001 N002 LED_WHT
D14 N002 N015 LED_WHT
D15 N015 LED- LED_WHT
D16 N001 N003 LED_WHT
D17 N003 N016 LED_WHT
D18 N016 LED- LED_WHT
D25 N001 N004 LED_WHT
D26 N004 N017 LED_WHT
D27 N017 LED- LED_WHT
D28 N001 N005 LED_WHT
D29 N005 N018 LED_WHT
D30 N018 LED- LED_WHT
D37 N001 N006 LED_WHT
D38 N006 N019 LED_WHT
D39 N019 LED- LED_WHT
D40 N001 N007 LED_WHT
D41 N007 N020 LED_WHT
D42 N020 LED- LED_WHT
D43 N001 N008 LED_WHT
D44 N008 N021 LED_WHT
D45 N021 LED- LED_WHT
D46 N001 N009 LED_WHT
D47 N009 N022 LED_WHT
D48 N022 LED- LED_WHT
.model D D
.lib C:\Users\farri\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\farri\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.1
.model LED_RED D(IS=2e-19 N=2.1 RS=10 EG=1.9 TT=1e-7)
.model LED_WHT D(IS=1e-18 N=2.0 RS=15 EG=2.0 CJO=1e-11 TT=2e-7)
.lib UniversalOpAmp2.lib
.backanno
.end
